US05496937
The saccharide-bonded silica gel was dispersed into a mixture of 8 ml of anhydrous DMA-LiCl and 3 ml of pyridine, and 5 g of 3,5-dichlorophenyl isocyanate (this was formed from 3,5-dichloroaniline by an ordinary method) dissolved in 5 ml of DMA were added thereto and reacted at 80° C. in nitrogen for 12 hours. The presence of excess isocyanate groups in the reaction mixture was confirmed by the peak of C=N stretching vibration at 2,270 cm-1 in its IR spectrum. The saccharide-bonded, surface-treated silica gel was washed with tetrahydrofuran, methanol, acetone and hexane and dried in vacuum at 60° C. for 2 hours. The resultant compound was then subjected to IR spectrometry and elementary analysis. Results of elementary analysis are shown in Table 1.

reactant | DMA LiCl | 8 ml | CC(=O)N(C)C.[Li+].[Cl-]
reactant | 3,5-dichlorophenyl isocyanate | 5 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
